US09193725B2
To a stirred solution of 4-chloro-5-(2,2-diethoxyethyl)-6-phenylpyrimidine (800 mg) in dry THF (10 mL), concentrated HCl (2.0 mL) was added. The reaction mixture was stirred at 45° C. for 1 hour and solvents were removed under reduced pressure. The resulting oil was diluted with dichloromethane (50 mL), washed with 10% NaHCO3 (20 mL) and brine (20 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography using MeOH\CHCl3 (0.1:9.9) as eluent to afford 2-(4-chloro-6-phenylpyrimidin-5-yl)acetaldehyde (450 mg) as white solid. 1H NMR (DMSO-d6): δ 4.04 (s, 2H), 7.42-7.53 (m, 5H), 9.02 (s, 1H), 9.72 (s, 1H).

reactant | 4-chloro-5-(2,2-diethoxyethyl)-6-phenylpyrimidine | 800 mg | ClC1=NC=NC(=C1CC(OCC)OCC)C1=CC=CC=C1 | C16H19ClN2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | HCl | 2.0 mL | Cl | ClH
product | 2-(4-chloro-6-phenylpyrimidin-5-yl)acetaldehyde | 450 mg | ClC1=NC=NC(=C1CC=O)C1=CC=CC=C1 | C12H9ClN2O
